US04210648
11-(Dibenzylamino-acetyl)-5,11-dihydro-6H-pyrido [2,3-b][1,4]benzodiazepin-6-one
6 gm of 11-chloroacetyl-5,11-dihydro-6H-pyrido [2,3-b][1,4]benzodiazepin-6-one, 4.2 gm of dibenzylamine and 2.1 gm of triethylamine were refluxed in 100 ml of absolute dioxane for 15 hours. After cooling, the formed triethylamine hydrochloride was separated, and the filtrate was evaporated in vacuo to dryness. The residue was then recrystallized twice from ethanol.

reactant | 11-chloroacetyl-5,11-dihydro-6H-pyrido [2,3-b][1,4]benzodiazepin-6-one | 6 gm | ClCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C14H10ClN3O2
reactant | dibenzylamine | 4.2 gm | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
reactant | triethylamine | 2.1 gm | C(C)N(CC)CC | C6H15N
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 11-(Dibenzylamino-acetyl)-5,11-dihydro-6H-pyrido [2,3-b][1,4]benzodiazepin-6-one | C(C1=CC=CC=C1)N(CC1=CC=CC=C1)CC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C28H24N4O2
